US06335353B1
1-Ethyl-2-methoxymethyl-3-benzyloxy-6-methyl-pyridin-4(1H)-one hydrochloride
The title compound was prepared by the method outlined for 1,6-dimethyl-2-methoxy-methyl-3-benzyloxy-pyridin-4(1H)-one hydrochloride, using 6.5 g (25 mmol, 1 eq.) of 2-(1-methoxymethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one and 4.82 g (75 mmol, 3 eq.) of 70% aqueous ethylamine to yield the pure product 3.7 g (45.7%) after recrystallisation from methanol/diethyl ether, as a white crystalline solid m.p. 114-116° C.

reactant | 1,6-dimethyl-2-methoxy-methyl-3-benzyloxy-pyridin-4(1H)-one hydrochloride | Cl.CN1C(=C(C(C(=C1C)C)=O)OCC1=CC=CC=C1)OC
reactant | 2-(1-methoxymethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one | 25 mmol, 6.5 g, 1 eq. | COCC=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C15H16O4
reactant | ethylamine | 75 mmol, 4.82 g, 3 eq. | C(C)N | C2H7N
product | 1-Ethyl-2-methoxymethyl-3-benzyloxy-6-methyl-pyridin-4(1H)-one hydrochloride | Cl.C(C)N1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)COC | InChI=1S/C17H21NO3.ClH/c1-4-18-13(2)10-16(19)17(15(18)12-20-3)21-11-14-8-6-5-7-9-14;/h5-10H,4,11-12H2,1-3H3;1H
